US04585768
A mixture of 1.67 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-tert.-butoxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 15 ml of acetic anhydride and 0.5 ml of pyridine is stirred at 110° C. for 4 hours. Then, the mixture is evaporated under reduced pressure to remove solvent. Benzene is added to the residue, and the mixture is evaporated under reduced pressure to remove solvent. 1.81 g of (-)-cis-2-(4-methoxylphenyl)-3-acetoxy-5-[2-(N-tert.-butoxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-tert.-butoxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.67 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OC(C)(C)C)C=CC(=C2)Cl | C24H29ClN2O5S
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | (-)-cis-2-(4-methoxylphenyl)-3-acetoxy-5-[2-(N-tert.-butoxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.81 g | O(C)C1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCN(C)C(=O)OC(C)(C)C)C=CC(=C2)Cl | C26H31ClN2O6S
